US05206375
6.8 parts of N,N-dimethyl-N'-(4-chloro-3-cyano-5-methylthien-2-yl)-formamidine, 30 parts of formic acid and 30 parts of water are heated at the boil for 1 hour, and the precipitated product is filtered off under suction when the mixture is cooled, and washed with water and dried. 5.6 parts (93% of theory) of N-(4-chloro-3-cyano-5-methylthien-2-yl)-formamide are obtained.

reactant | N,N-dimethyl-N'-(4-chloro-3-cyano-5-methylthien-2-yl)-formamidine | CN(C=NC=1SC(=C(C1C#N)Cl)C)C | C9H10ClN3S
reactant | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
product | N-(4-chloro-3-cyano-5-methylthien-2-yl)-formamide | 93% | ClC=1C(=C(SC1C)NC=O)C#N | C7H5ClN2OS
